US04740596
A 1.23 g quantity of p-bromophenacyl 2-[3-phenoxyacetamido-4-(6-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate and 572 mg of 6-methylbenzothiazol-2-yl benzenethiosulfonate were dissolved in 10 ml of acetone. To the solution were added 2 ml of water and then 3 mg of sodium benzenesulfinate. The mixture was stirred at room temperature for 5 hours. The precipitated 6-methylbenzothiazol-2-yl disulfide crystals were filtered and the filtrate was concentrated under reduced pressure. The residue was treated in the same manner as in Example 1, giving p-bromophenacyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate in a yield of 94%. The NMR spectrum data of the compound thus obtained were identical with those of the desired compound. Table 2 below shows the data thereof.

reactant | p-bromophenacyl 2-[3-phenoxyacetamido-4-(6-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SSC=1SC2=C(N1)C=CC(=C2)C)C(C(=O)OCC(=O)C2=CC=C(C=C2)Br)C(=C)C)=O | C32H28BrN3O6S3
reactant | 6-methylbenzothiazol-2-yl benzenethiosulfonate | 572 mg | C1(=CC=CC=C1)S(=O)(OC=1SC2=C(N1)C=CC(=C2)C)=S | C14H11NO2S3
reactant | water | 2 ml | O | H2O
reactant | sodium benzenesulfinate | 3 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | p-bromophenacyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate | yield of 94% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SS(=O)(=O)C1=CC=CC=C1)C(C(=O)OCC(=O)C1=CC=C(C=C1)Br)C(=C)C)=O | C30H27BrN2O8S2
